US04060630
A solution of 0.10 mole of 2-[N-(2,5-dichlorophenyl)-N-(β-diethylaminoethyl)amino]acetophenone in 200 ml of dry diethylether is added to a solution of 0.10 mole of methylmagnesium iodide in 500 ml of dry diethylether maintained at a temperature of from 0° to -5° C under nitrogen atmosphere. Thirty minutes after the addition the reaction mixture is washed with ice cold aqueous 2M ammonium chloride, dried over sodium sulfate, filtered and evaporated to give N-(β-diethylaminoethyl)-N-(β-hydroxy-β-phenylpropyl)-2,5-dichloroaniline.

reactant | 2-[N-(2,5-dichlorophenyl)-N-(β-diethylaminoethyl)amino]acetophenone | 0.10 mole | ClC1=C(C=C(C=C1)Cl)N(CCN(CC)CC)CC(=O)C1=CC=CC=C1 | C20H24Cl2N2O
reactant | methylmagnesium iodide | 0.10 mole | C[Mg]I
solvent | diethylether | 200 ml | C(C)OCC | C4H10O
solvent | diethylether | 500 ml | C(C)OCC | C4H10O
product | N-(β-diethylaminoethyl)-N-(β-hydroxy-β-phenylpropyl)-2,5-dichloroaniline | C(C)N(CCN(C1=C(C=CC(=C1)Cl)Cl)CC(C)(C1=CC=CC=C1)O)CC | C21H28Cl2N2O
